US05019587
4,4-Dimethyl-1,2,3,4-tetrahydro-N-phenyl-2-oxo-7-quinolinecarboxamide
2.7 g. (12.3 mmol) 4,4-Dimethyl-1,2,3,4-tetrahydro-2-oxo-7-quinolinecarboxylic acid were added to a solution of 3.8 g. (18.5 mmol) N,N'-dicyclohexylcarbodiimide and 1.1 ml. (12.3 mmol) aniline in 80 ml. dichloromethane. The reaction mixture was stirred for 4 hours at ambient temperature and the precipitate was filtered off with suction and recrystallised from ethanol. There was obtained 1.2 g. of the title compound; m.p. 249-251° C.

reactant | 4,4-Dimethyl-1,2,3,4-tetrahydro-2-oxo-7-quinolinecarboxylic acid | 12.3 mmol | CC1(CC(NC2=CC(=CC=C12)C(=O)O)=O)C | C12H13NO3
reactant | N,N'-dicyclohexylcarbodiimide | 18.5 mmol | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | aniline | 12.3 mmol | NC1=CC=CC=C1 | C6H7N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4,4-Dimethyl-1,2,3,4-tetrahydro-N-phenyl-2-oxo-7-quinolinecarboxamide | CC1(CC(NC2=CC(=CC=C12)C(=O)NC1=CC=CC=C1)=O)C | C18H18N2O2
